spice
* SPICE netlist for the circuit
VDD 3 0 DC 10V
C1_left 8 7 10n
? Missing component
L1_left 6 5 1u
L1_right 3 2 1u
Rp_left 8 5 1k
Rp_right 3 2 1k
M1 X Y 4 4 NMOS
M2 Y X 4 4 NMOS
Iss 4 0 DC 1mA
* Model parameters for NMOS
.model NMOS NMOS (LEVEL=1 VTO=1 KP=120u)
.end
